US07691882B2
6-(3-Fluoro-phenoxy)-pyridine-3-carbaldehyde
To a diethyl ether (100 mL) solution of 5-bromo-2-(3-fluoro-phenoxy)-pyridine (5.81 g, 21.7 mmol) described in Manufacturing Example 71-1-1 was added n-butyl lithium (13.8 mL, 1.57 M n-hexane solution, 21.7 mmol) under nitrogen atmosphere at −78° C., which was stirred for 40 minutes at −78° C. N,N-Dimethylformamide (2.02 mL, 26.0 mmol) was then added to the mixture at −78° C., and stirred for 25 minutes as the temperature was gradually raised to 0° C. Water was added to the reaction solution at 0° C., which was then extracted with ethyl acetate. The organic layer was separated, washed with 1 N aqueous sodium hydroxide solution and saturated aqueous sodium chloride, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=5:1) to obtain the title compound (2.47 g, 52%).

reactant | diethyl ether | 100 mL | C(C)OCC | C4H10O
reactant | 5-bromo-2-(3-fluoro-phenoxy)-pyridine | 21.7 mmol, 5.81 g | BrC=1C=CC(=NC1)OC1=CC(=CC=C1)F | C11H7BrFNO
reactant | n-butyl lithium | 21.7 mmol, 1.57 M, 13.8 mL | C(CCC)[Li]
reactant | N,N-Dimethylformamide | 26.0 mmol, 2.02 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 6-(3-Fluoro-phenoxy)-pyridine-3-carbaldehyde | 2.47 g, 52% | FC=1C=C(OC2=CC=C(C=N2)C=O)C=CC1 | C12H8FNO2
